US05028602
((d) 1-Chloro-6-methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine
A mixture of 1,3-dichloro-6-methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine (73 mg) and 10% palladium on carbon (20 mg) in acetic acid (2 ml) was hydrogenated for 24 hours at 60 p.s.i. The mixture was filtered and the filtrate evaporated to a yellow oil. Chromatography on silica (1% methanol-ammonia in dichloromethane) gave the title product as an oil.

reactant | 1,3-dichloro-6-methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine | 73 mg | ClC=1SC(=C2C1CCN(CC2C2=CC=CC=C2)C)Cl | C15H15Cl2NS
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1-Chloro-6-methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine | ClC=1SC=C2C1CCN(CC2C2=CC=CC=C2)C | C15H16ClNS
